US06169107A
A tetrahydrofuran solution, 60 ml, containing 2.00 g (9.84 mmol) of 1-isopropyl-2-indolecarboxylic acid and 2.39 g (14.8 mmol) of carbonyldiimidazole was stirred at room temperature for 2 hours and then at 45 to 50° C. for an hour. After cooling to room temperature, 30 ml of a dimethylformamide solution of 5.64 g (59.0 mmol) of guanidine hydrochloride and 5.97 g (59.0 mmol) of triethylamine was added to the reaction mixture followed by stirring at room temperature for 12 hours. The mixture was then distilled off under reduced pressure and water was added to the resulting residue. After adjusting pH in the range of 5 to 6 with 2N hydrochloric acid, the mixture was extracted three times with ethyl acetate. After drying over anhydrous magnesium sulfate, the extract was acidified with hydrogen chloride/ether. The precipitated crystals were filtered and dried to give 1.31 g (47.4%) of the desired 1-isopropyl-2-indoloyl-guanidine hydrochloride.

reactant | 1-isopropyl-2-indolecarboxylic acid | 9.84 mmol, 2.00 g | C(C)(C)N1C(=CC2=CC=CC=C12)C(=O)O | C12H13NO2
reactant | carbonyldiimidazole | 14.8 mmol, 2.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | guanidine hydrochloride | 59.0 mmol, 5.64 g | Cl.NC(=N)N
reactant | triethylamine | 59.0 mmol, 5.97 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-isopropyl-2-indoloyl-guanidine hydrochloride | 1.31 g, 47.4% | Cl.C(C)(C)NC(=NC(=O)C=1NC2=CC=CC=C2C1)N | InChI=1S/C13H16N4O.ClH/c1-8(2)15-13(14)17-12(18)11-7-9-5-3-4-6-10(9)16-11;/h3-8,16H,1-2H3,(H3,14,15,17,18);1H
